US04031101
A mixture of 619 g. of γ-Chlorobutyrophenone, ethylene ketal, 700 g. of cis-2,6-dimethylpiperidine and 16 g. of sodium iodide is stirred and heated at reflux for 48 hours. The mixture is cooled, diluted with 1 l. of anhydrous ether and filtered to remove cis-2,6-dimethylpiperidine hydrochloride. The filter cake is washed with 1 l. of ether and the filtrate and washings combined. The resulting ether solution is washed five times with 500 ml. portions of water, then extracted with a solution of 300 ml. of concentrated hydrochloric acid in 3 l. of water. The acid extract is washed with 500 ml. of ether, then heated to 70°-80° and allowed to cool to room temperature over a period of 16 hours. The resulting solution is basified with 50% aqueous sodium hydroxide and the organic layer is separated. The aqueous layer is extracted with 500 ml. of ether and the extract is combined with the organic layer. The combined extract is washed several times with water, dried and evaporated. The oily residue is distilled at reduced pressure to give cis-γ-(2,6-dimethylpiperidino)butyrophenone; b.p. 138°-141° C./0.1 mm.

reactant | γ-Chlorobutyrophenone | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | cis-2,6-dimethylpiperidine | C[C@@H]1N[C@@H](CCC1)C | C7H15N
reactant | sodium iodide | [I-].[Na+]
product | cis-γ-(2,6-dimethylpiperidino)butyrophenone | C[C@@H]1N([C@@H](CCC1)C)CCCC(=O)C1=CC=CC=C1 | C17H25NO
